US08614209B2
5-Bromo-thiophene-3-carboxylic acid methyl ester (0.193 g, 0.87 mmol) was combined with 1-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (0.2 g, 0.96 mmol), caesium carbonate (0.424 g, 1.3 mmol), and palladium tetrakis(triphenylphosphine) (0.1 g, 0.09 mmol) in DME (10 mL), IMS 2 mL) and water (1 mL). The reaction mixture was degassed then heated by microwave irradiation to 140° C. for 20 minutes. The mixture was diluted with water then extracted with DCM (×3) then the organic solution was dried over sodium sulfate, filtered and the solvent evaporated. The residue was purified by chromatography on a 5 g silica II cartridge, eluting with 5-30% ethyl acetate in cyclohexane to give 5-(2-methyl-2H-pyrazol-3-yl)-thiophene-3-carboxylic acid methyl ester as a brown oil (0.163 g). LCMS m/z 223.24 [M+H]+ R.T.=3.24 min (Analytical Method 6).

reactant | 5-Bromo-thiophene-3-carboxylic acid methyl ester | 0.87 mmol, 0.193 g | COC(=O)C1=CSC(=C1)Br | C6H5BrO2S
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.96 mmol, 0.2 g | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | caesium carbonate | 1.3 mmol, 0.424 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1 mL | O | H2O
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | palladium tetrakis(triphenylphosphine) | 0.09 mmol, 0.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 5-(2-methyl-2H-pyrazol-3-yl)-thiophene-3-carboxylic acid methyl ester | 0.163 g | COC(=O)C1=CSC(=C1)C=1N(N=CC1)C | C10H10N2O2S
